US07405215B2
b.) {3-[2-(3-Trifluoromethyl-benzyl)-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl]-5-fluoro-2-methyl-indol-1-yl}-acetic acid
{3-[2-(3-Trifluoromethyl-benzyl)-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl]-5-fluoro-2-methyl-indol-1-yl}-acetic acid tert-butyl ester (61 μmol) was treated with TFA (2 mL) for 2 hours, concentrated, and purified by preparative LCMS to give the title compound. 1H NMR (d6-DMSO) δ 8.18 (d, 1H), 7.95 (t, 1H), 7.86 (t, 1H), 7.70 (m, 4H), 7.48 (d, 1H), 7.37 (dd, 1H), 6.89 (dt, 1H), 6.52 (dd, 1H), 5.18 (bs, 2H), 4.48 (s, 2H), 2.07 (s, 3H) ppm. MS calculated for C26H19F4N3O4S—H: 544, observed: 544.

reactant | {3-[2-(3-Trifluoromethyl-benzyl)-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl]-5-fluoro-2-methyl-indol-1-yl}-acetic acid tert-butyl ester | 61 μmol | C(C)(C)(C)OC(CN1C(=C(C2=CC(=CC=C12)F)C1=NN(S(C2=C1C=CC=C2)(=O)=O)CC2=CC(=CC=C2)C(F)(F)F)C)=O | C30H27F4N3O4S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {3-[2-(3-Trifluoromethyl-benzyl)-1,1-dioxo-1,2-dihydro-1λ6-benzo[e][1,2,3]thiadiazin-4-yl]-5-fluoro-2-methyl-indol-1-yl}-acetic acid | FC(C=1C=C(CN2S(C3=C(C(=N2)C2=C(N(C4=CC=C(C=C24)F)CC(=O)O)C)C=CC=C3)(=O)=O)C=CC1)(F)F | C26H19F4N3O4S
